Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fatigue, Abnormal Labs 
 
Major Surgical or Invasive Procedure:
ERCP ___
Pouchoscopy ___

 
History of Present Illness:
Ms. ___ is a ___ female with a history of 
ulcerative
colitis status post colectomy, pouchitis, primary sclerosing
cholangitis, and sarcoidosis on Plaquenil, who presented to the
ED on ___ with fatigue and abnormal labs. 

The patient initially presented to ___ clinic for a follow-up
appointment, and was found to have elevated bilirubin and
leukocytosis  on routine labwork. She states that over the past
couple of months, starting in ___, she has been feeling
generally fatigued; she endorsed lower energy levels and
increased somnolence, along with some pruritus. Additionally, 
she
endorses intermittent blood-streaked stool for the past 2 
months;
she averages ___ BMs per day, with fresh red blood mixed in her
stool and blood on the toilet paper. She also notes occasional
subjective fevers and chills, as well as some yellowing of the
skin. She also notes diffuse joint pains. Denied any nausea or
vomiting, bowel incontinence, abdominal pain, or blurry vision.
No chest pain, cough, dyspnea. The patient was initially 
planning
to travel to ___, but was strongly urged by her
gastroenterologist to cancel her trip and present to the ___ 
ED
for urgent MRCP/ERCP and likely admission. 

In the ED initial vitals: 
T98.0, HR 82, BP 104/45, RR 18, 100% RA
 
Exam notable for:  
Patient appeared comfortable, but was noticeably jaundiced, with
scleral icterus. Soft abdomen, with epigastric tenderness, w/o
distension. ___ sign negative. No appreciable ascites. Brown
Heme-occult positive stool. Ulceration at left medial malleolus,
no appreciable overlying infection. 

Labs notable for:  
CBC: WBC 19.9 > 21.5, Hgb 8.9 > 9.2, Plt 479 > 410  
Chem7: Na 138, K 4.1, Cl 106, Bicarb 19, BUN 13, Cr 0.5, glucose
155  
LFTs: ALT 27 > 27; AST 60 > 57; AP 480 > 462; TBili 5.1 > 5.6;
Alb 2.8   
Coags: ___ 15.9; PTT 29.9; INR 1.5 
CRP: 86.3; ESR > 130 
TSH 1.5; HbA1c 4.3% 
Cholesterol 201; triglycerides 145; HDL 21, LDL 151
Lactate 1.9 
UA: mod leuk, neg bld, neg nitrate, 13 WBC, few bacteria, 7 epi 
 
Imaging notable for:
Liver/Gallbladder Ultrasound: 
1. Redemonstration of a heterogeneous and nodular liver,
consistent with history of primary sclerosing cholangitis.
Splenomegaly up to 15.9 cm.
2. New hypoechoic lesions measuring up to 1.6 cm within both
hepatic lobes as well as mildly dilated intrahepatic biliary
ducts are worrisome for neoplasm. Recommend correlation with 
MRI.
3. Gallbladder sludge without secondary signs of acute
cholecystitis.

MRCP: 
IMPRESSION: 
1. Mild to moderate irregular intrahepatic biliary ductal
dilatation with an abrupt transition in the distal CBD where
there is enhancing soft tissue worrisome for extrahepatic
cholangiocarcinoma. ERCP with brushings is recommended. 
2. Irregular intrahepatic biliary ductal dilatation with regions
of stenosis and ectasia with extensive peribiliary enhancement
consistent with acute cholangitis superimposed on background
primary sclerosing cholangitis with changes of cirrhosis. 
3. Extensive gastrohepatic ligament, retroperitoneal, and porta
hepatis lymphadenopathy. 
4. Mild splenomegaly. 

Consults:  
- GI/ERCP
- Hepatology 

Patient was given:  
1L LR 
IV Piperacillin-Tazobactam  4.5g  x1 
PO Ursodiol 250mg 
PO Hydroxychloroquine Sulfate 200mg  
PO Metronidazole 250mg (home dose; patient takes for 
prophylaxis)

PO Ciprofloxacin 500mg   

ED Course:  
Patient remained HD stable and afebrile for entire time in ED,
with systolic BP ranging in ___, and HR ranging ___.
Given MRCP findings as above, concerning for cholangitis as well
as possible extrahepatic cholangiocarcinoma, ERCP was
recommended. Patient had ERCP done on ___, and underwent a
sphincterotomy, with the placement of 1 plastic stent. Scrapings
were also taken, and sent for cytology and FISH. Per ERCP 
fellow,
there was significant purulent material. She was recommended for
admission to ET following ERCP. 

On arrival to the floor, the patient endorsed the above history,
and stated that she was generally feeling well. She endorsed
continued fatigue, but feels that it may have slightly improved
since she first presented to the ED. She also endorsed mild
abdominal tenderness, worst on the left side, after her ERCP. 
Her
last bowel movement was around 9pm, and was reportedly fairly
normal, with only trace amounts of blood. Her only other
complaint was dry mouth; denied any chest pain, SOB, N/V,
headaches, dizziness/lightheadedness, dysuria. She endorses an
unintentional 8lb weight loss over the past 4 months.  

REVIEW OF SYSTEMS: Positive per HPI, remaining 10 point ROS
reviewed and negative.  

 
Past Medical History:
- Ulcerative Colitis, s/p colectomy and ileoanal anastomosis, 
c/b
recurrent pouchitis  
- Primary Sclerosing Cholangitis 
- Sarcoidosis, with recurrent lower extremity ulcers  
- Carpal Tunnel Syndrome 
- History of DVT ___ years ago
- Osteoarthritis 

 
Social History:
___
Family History:
Mother: pulmonary sarcoidosis, appendiceal cancer, HTN, OSA    
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
=============================== 
VS: 24 HR Data (last updated ___ @ 2149)
    Temp: 97.3 (Tm 97.3), BP: 121/70, HR: 66, RR: 18, O2 sat:
100%, O2 delivery: RA, Wt: 97.9 lb/44.41 kg    
GENERAL: NAD, jaundiced   
HEENT: AT/NC, EOMI, PERRL, icteric sclerae, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GU: No CVA tenderness. 
ABDOMEN: nondistended, minimally tender to palpation in RUQ. No
rebound/guarding, no hepatosplenomegaly, negative ___ sign.
Small hernia in RLQ, reducible and non-tender.    
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused. No rashes. Ulceration over left
medial malleolus, no appreciable overlying infection - no
erythema or purulent discharge. Ecchymosis over ___ medical
malleolus.   

DISCHARGE PHYSICAL EXAM:
========================
___ ___ Temp: 97.9 PO BP: 104/55 HR: 76 RR: 18 O2
sat: 98% RA
GENERAL: awake, alert sitting comfortably in a chair beside bed
SKIN: jaundice slightly improved but still present, no rash 
CARDIAC: RRR. Audible S1 and S2. No murmurs, rubs or gallops. 
LUNGS: Clear to auscultation anteriorly, no 
wheezes/rales/rhonchi
ABDOMEN: Normal bowels sounds, non distended, non-tender to
palpation
EXTREMITIES: warm, well perfused, no pitting edema, L medial
malleolus covered with clean, dry and intact dressing, no
surrounding erythema and edema. Ulceration with less discharge
than previous
 
Pertinent Results:
ADMISSION LABS:
___ 09:37AM BLOOD WBC-19.9* RBC-3.00* Hgb-8.9* Hct-28.6* 
MCV-95 MCH-29.7 MCHC-31.1* RDW-17.2* RDWSD-60.5* Plt ___
___ 09:37AM BLOOD Neuts-78.0* Lymphs-10.1* Monos-8.1 
Eos-1.5 Baso-0.8 Im ___ AbsNeut-15.54* AbsLymp-2.01 
AbsMono-1.61* AbsEos-0.30 AbsBaso-0.15*
___ 09:37AM BLOOD Plt ___
___ 06:45PM BLOOD ___ PTT-29.9 ___
___ 09:37AM BLOOD UreaN-11 Creat-0.6
___ 06:45PM BLOOD Glucose-155* UreaN-13 Creat-0.5 Na-138 
K-4.1 Cl-106 HCO3-19* AnGap-13
___ 09:37AM BLOOD ALT-27 AST-60* AlkPhos-480* TotBili-5.1*
___ 09:37AM BLOOD Albumin-2.8* Cholest-201*
___ 11:41PM BLOOD calTIBC-192* Hapto-318* Ferritn-265* 
TRF-148*
___ 09:37AM BLOOD %HbA1c-4.3 eAG-77
___ 09:37AM BLOOD Triglyc-145 HDL-21* CHOL/HD-9.6 
LDLcalc-151*
___ 09:37AM BLOOD TSH-1.5
___ 09:37AM BLOOD CRP-86.3*

LFT TREND:
___ 09:37AM BLOOD ALT-27 AST-60* AlkPhos-480* TotBili-5.1*
___ 06:45PM BLOOD ALT-27 AST-57* AlkPhos-462* TotBili-5.6* 
DirBili-4.4* IndBili-1.2
___ 11:41PM BLOOD Amylase-82
___ 08:17AM BLOOD ALT-22 AST-50* LD(LDH)-103 AlkPhos-382* 
TotBili-4.9* DirBili-3.8* IndBili-1.1
___ 07:10AM BLOOD ALT-27 AST-68* AlkPhos-403* TotBili-3.9*
___ 06:44AM BLOOD ALT-26 AST-57* AlkPhos-430* TotBili-3.4*
___ 08:04AM BLOOD ALT-24 AST-60* AlkPhos-388* TotBili-3.2*
___ 08:15AM BLOOD ALT-25 AST-62* AlkPhos-378* TotBili-3.0*

ERCP ___:
Successful ERCP with sphincterotomy brushings of stricture and 
placement of plastic stent.

COMMON BILE DUCT BRUSHINGS CYTOLOGY:
ATYPICAL. Atypical crowded glandular epithelial cells, some with 
mucinous change, in a background of acute inflammation. FISH 
studies are in progress and will be reported.

POUCHOSCOPY ___:
- Mass (1.5cm) in the ileoanal anastomosis
- Ulcer in the ileoanal anastomosis across from the mass
- There was a stenosis at the anastomosis of about 2cm. Digital 
exam was performed and finger was able to pass with gentle 
pressure. The scope passed easily.

GI MUCOSA BIOPSY (FROM POUCHOSCOPY):
Ileo-anal anastomosis, mass, mucosal biopsy:
-Predominantly superficial fragments of benign intestinal mucosa 
with ulceration and regenerative changes. See note.
-Additional levels are examined.
Note: While the findings raise the possibility of an 
inflammatory-type polyp, a reactive process to a clinically more 
significant adjacent/underlying lesion cannot be excluded; 
further clinical correlation with endoscopic findings is 
recommended. The case was reviewed at ___ Consensus Conference on 
___.

DISCHARGE LABS:
___ 07:56AM BLOOD WBC-14.2* RBC-3.47* Hgb-10.3* Hct-35.1 
MCV-101* MCH-29.7 MCHC-29.3* RDW-17.0* RDWSD-62.2* Plt ___
___ 07:56AM BLOOD Plt ___
___ 07:56AM BLOOD Glucose-77 UreaN-18 Creat-0.5 Na-142 
K-4.5 Cl-112* HCO3-17* AnGap-13
___ 08:15AM BLOOD ALT-25 AST-62* AlkPhos-378* TotBili-3.0*
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[ ] She is being discharged with 2 more days of PO ciprofloxacin 
and metronidazole to be completed on ___. This will complete 
a 10-day course of antibiotics for acute cholangitis with 
unknown microbiology.
[ ] After the completion of antibiotics as above, she should 
restart her home metronidazole dosing of 250mg BID.
[ ] She had a plastic stent placed during ERCP ___. This will 
need to be replaced by a metal stent in ___ weeks.
[ ] FISH is pending on the ERCP brushings.

# CODE: FULL Confirmed 
# CONTACT: ___, sister; ___ 

SUMMARY:
========
___ yr old with PSC, ulcerative colitis s/p colectomy, pouchitis 
and sarcoidosis on Plaquenil presenting from GI and liver clinic 
with 2 months of fatigue and abnormal labs revealing elevated 
total bilirubin, AlkPhos and leukocytosis with concern for acute 
cholangitis and acute blood loss anemia.

ACUTE ISSUES:
=============
#Acute cholangitis
#Primary sclerosing cholangitis
She presented with fatigue, jaundice, and increased LFTs. ERCP 
was performed ___ with a plastic stent placed in a stricture. 
Brushings were collected, with cytology showing atypical crowded 
granular epithelial cells, some with mucinous changes in the 
background of acute inflammation. She was treated with cefepime 
and flagyl for presumed infectious cholangitis given 
leukocytosis. FISH results are pending on the brushings. She was 
discharged home with close GI follow-up.

#Chronic Pouchitis
#Normocytic anemia
Pouchoscopy was performed on ___ with ulcerated mass seen at 
the anastomosis. This was biopsied, with results showing 
atypical cells, but not suggestive of malignancy. Continued home 
loperamide, codeine-guaifenasin, flagyl. She was continued on 
her home medications and was discharged with close GI follow-up. 


#LLE Ulceration 
Continued home wound care regimen.

CHRONIC ISSUES:
===============
#Sarcoidosis
Continued home Hydroxychloroquine.

#Chronic Joint Pain 
#Osteoarthritis 
Held home meloxicam, which was restarted at discharge.

#Vitamin D Deficiency 
Continued vitamin D supplementation.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LOPERamide 14 mg PO TID 
2. MetroNIDAZOLE 250 mg PO BID 
3. Ursodiol 250 mg PO BID 
4. Vitamin D ___ UNIT PO DAILY 
5. Hydroxychloroquine Sulfate 200 mg PO BID 
6. meloxicam 7.5-15 mg oral BID:PRN 
7. GuaiFENesin-CODEINE Phosphate 5 mL PO QHS 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*4 Tablet Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tab-cap by mouth once a day Disp #*30 Tablet 
Refills:*0 
3.  MetroNIDAZOLE 500 mg PO/NG TID 
RX *metronidazole 250 mg 2 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0 
4.  GuaiFENesin-CODEINE Phosphate 5 mL PO QHS  
5.  Hydroxychloroquine Sulfate 200 mg PO BID  
6.  LOPERamide 14 mg PO TID  
7.  meloxicam 7.5-15 mg oral BID:PRN  
8.  Ursodiol 250 mg PO BID  
9.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
========
Acute Cholangitis

SECONDARY:
==========
Ulcerative colitis
Primary sclerosing cholangitis 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure looking after you here at ___. 

WHY WAS I IN THE HOSPITAL? 
- You present to ___ clinic and was found to have abnormal blood 
work results (high bilirubin, high white blood cells, high 
alkaline phosphatase, low red blood cells) 
- You also had noticed that you had been fatigued and itching 
since ___ 
- You had also noticed that you had blood in your stool for the 
last few months

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- You got a MRI of your gallbladder, liver, pancreas and their 
ducts called an MRCP 
- You got a video test called an ERCP where videos were taken 
from inside. This helped us to see your gallbladder, liver, 
pancreas and their ducts better. This test showed that you had 
an infection of your gallbladder. A plastic stent was placed to 
help to drain this infection. These pictures also showed a mass 
that was concerning for a gallbladder cancer. Some biopsies of 
this mass were taken. 
- You got a flexible sigmoidoscopy to look at your pouch. It 
showed did show your pouch had some inflammation and there was 
an out pouching that was bleeding. This bleeding could help 
explain your low red blood cell count. Biopsies were also taken 
during this test. 
- You were started on antibiotics to treat your gallbladder 
infection

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Follow up with your gastroenterologist 

Best, 
Your ___ Team
 
Followup Instructions:
___